US05324735
4.11 gm (15.3 mmol) of ethyl 7-chloro-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate and 6.32 gm (45.7 mmol) of potassium carbonate anhydride were suspended into 80 ml of N,N-dimethylformamide. To this suspension was added dropwise 20 ml of a solution of 10.90 gm (45.7 mmol) of 1-(tetrahydro-2-pyranyloxy)-2-(methanesulfonyl)propane dissolved in N,N-dimethylformamide with heating at 120° C., and the mixture was stirred vigorously at 120° C. for 10 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure, and 50 ml of acetic acid and 10 ml of water were added to the residue to effect the hydrolysis at 60° C. for 2 hours. The reaction product was filtered and the filtrate was concentrated. The residue was extracted with chloroform, followed by evaporation of chloroform. The residue thus obtained was purified by silica gel column chromatography (chloroform:methanol=20:1) and recrystallized with a small amount of chloroform to obtain colorless needlelike crystals of ethyl 7-chloro-6-fluoro-1,4-dihydro-1-(1-hydroxyprop-2-yl)-4-oxoquinoline-3-carboxylate.

reactant | ethyl 7-chloro-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 15.3 mmol, 4.11 gm | ClC1=C(C=C2C(C(=CNC2=C1)C(=O)OCC)=O)F | C12H9ClFNO3
reactant | 1-(tetrahydro-2-pyranyloxy)-2-(methanesulfonyl)propane | 45.7 mmol, 10.90 gm | O1C(CCCC1)OCC(C)S(=O)(=O)C | C9H18O4S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | ethyl 7-chloro-6-fluoro-1,4-dihydro-1-(1-hydroxyprop-2-yl)-4-oxoquinoline-3-carboxylate | ClC1=C(C=C2C(C(=CN(C2=C1)C(CO)C)C(=O)OCC)=O)F | C15H15ClFNO4
